US07977362B2
4-Chlorobenzenesulfonylchloride (3.17 g, 15 mmol) was added to a mixture of cis-methyl 2-aminocycloheptanecarboxylate hydrochloride 2.08 g, 10 mmol) and triethylamine (4.2 mL, 30 mmol) and stirred at room temperature for 4 h. The reaction was partitioned between 100 mL diethyl ether and 100 mL water. The organic layer was dried over sodium sulfate, concentrated, and purified by flash chromatography on 120 g silica gel with 0 to 30% ethyl acetate in hexane to yield cis-methyl 2-(4-chlorophenylsulfonamido)cycloheptanecarboxylate (3.15 g, 91%). 1H NMR (400 MHz, CDCl3) δ ppm 7.78-7.81 (1H, m), 7.74-7.78 (1H, m), 7.46-7.48 (1H, m), 7.42-7.46 (1H, m), 5.33 (1H, d, J=9.57 Hz), 3.59 (3H, s), 3.53 (1H, tt, J=9.57, 4.03 Hz), 2.80 (1H, dt, J=8.06, 4.03 Hz), 1.76-1.92 (2H, m), 1.44-1.75 (6H, m), 1.25-1.41 (2H, m). LC/MS R.T.=2.65 min; [M+H]+=346.10; [M+Na]+=368.07; [M−H]−=344.04.

reactant | 4-Chlorobenzenesulfonylchloride | 15 mmol, 3.17 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | cis-methyl 2-aminocycloheptanecarboxylate hydrochloride | 10 mmol, 2.08 g | Cl.N[C@@H]1[C@@H](CCCCC1)C(=O)OC
reactant | triethylamine | 30 mmol, 4.2 mL | C(C)N(CC)CC | C6H15N
product | cis-methyl 2-(4-chlorophenylsulfonamido)cycloheptanecarboxylate | 3.15 g, 91% | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1[C@@H](CCCCC1)C(=O)OC | C15H20ClNO4S
